US05883132
[3-[(3-Cyanopropyl)amino]-1-(R)-methylpropyl]carbamic Acid, 1,1-dimethylethyl ester
21 g (60.8.10-3 mol) of [3-[(3-cyanopropyl)(phenylmethyl)amino]-1-(R)-methylpropyl]carbamic acid, 1,1-dimethylethyl ester are dissolved in 400 ml of ethanol, and 0.25 ml of 10M hydrochloric acid is then added, followed by 1.2 g of 5% palladium on charcoal. The mixture is stirred under a hydrogen atmosphere at room temperature and at atmospheric pressure. After a reaction time of 24 hours, the catalyst is filtered off and the filtrate is then concentrated under reduced pressure. The residue is purified by chromatography on silica gel using an ethyl acetate/ethanol/aqueous ammonia mixture (6/3/0.1 v/v) as the eluent to give 6 g of the expected product in the form of an oil (yield=34%).

reactant | [3-[(3-cyanopropyl)(phenylmethyl)amino]-1-(R)-methylpropyl]carbamic acid, 1,1-dimethylethyl ester | 21 g | C(#N)CCCN(CC[C@@H](C)NC(OC(C)(C)C)=O)CC1=CC=CC=C1 | C20H31N3O2
reactant | hydrochloric acid | 10M, 0.25 ml | Cl | ClH
solvent | ethanol | 400 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 1.2 g | [Pd] | Pd
product | [3-[(3-Cyanopropyl)amino]-1-(R)-methylpropyl]carbamic Acid, 1,1-dimethylethyl ester | 6 g | C(#N)CCCNCC[C@@H](C)NC(OC(C)(C)C)=O | C13H25N3O2
